US06225310B1
e) Ethyl 7-cyano-3-isopropylamino-6-methyl-4H-thieno[2,3-e]-1,2,4-thiadiazine-4-carboxylate 1,1-dioxide
To a stirred solution of N-(4-cyano-2-ethoxycarbonylamino-5-methyl-3-thienylsulfonyl)-N′-isopropylthiourea (0.3 g) and triethylamine (320 μl) in 10 ml of dry THF at 0° C. was added 750 μl of a 20% solution of phosgene in toluene. The mixture was stirred at 0° C. for 1 h and then evaporated to dryness. The residue was triturated with 10 ml of water, filtered off, rinsed on the filter with water and dried to give 0.24 g of crude title compound; m.p. 116-119° C. The product was used for the next step without purification.

reactant | N-(4-cyano-2-ethoxycarbonylamino-5-methyl-3-thienylsulfonyl)-N′-isopropylthiourea | 0.3 g | C(#N)C=1C(=C(SC1C)NC(=O)OCC)S(=O)(=O)NC(=S)NC(C)C | C13H18N4O4S3
reactant | triethylamine | 320 μl | C(C)N(CC)CC | C6H15N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Ethyl 7-cyano-3-isopropylamino-6-methyl-4H-thieno[2,3-e]-1,2,4-thiadiazine-4-carboxylate 1,1-dioxide | 0.24 g | C(#N)C1=C(SC=2N(C(=NS(C21)(=O)=O)NC(C)C)C(=O)OCC)C | C13H16N4O4S2
